US07319099B2
(b) 5-Methanesulfonyl-2-(2,2,3,3,3-pentafluoro-propoxy)-benzoic acid
To 5-methanesulfonyl-2-(2,2,3,3,3-pentafluoro-propoxy)-benzoic acid methyl ester (414 mg) in THF (5 mL) was added a solution of lithium hydroxide monohydrate (72 mg) in water (5 mL), and the reaction mixture was stirred at room temperature for 1 hour. After such time 1.72 mL of 1N aqueous hydrochloric acid solution was added. The reaction mixture was then concentrated in vacuo, and the resulting precipitate was then washed several times with water to yield the title compound as a white solid (367 mg). MS (m/e): 347.1 (M−H, 100%).

reactant | 5-methanesulfonyl-2-(2,2,3,3,3-pentafluoro-propoxy)-benzoic acid methyl ester | 414 mg | COC(C1=C(C=CC(=C1)S(=O)(=O)C)OCC(C(F)(F)F)(F)F)=O | C12H11F5O5S
reactant | lithium hydroxide monohydrate | 72 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 1.72 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 5-Methanesulfonyl-2-(2,2,3,3,3-pentafluoro-propoxy)-benzoic acid | 367 mg | CS(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OCC(C(F)(F)F)(F)F | C11H9F5O5S
